US04632925
A 3-L flask equipped with a mechanical stirrer, thermometer, and addition funnel was charged with 145.8 g of 3-pyridineoctanol and 1.0 L of methylene chloride. The solution was cooled in an ice bath and 72 mL of thionyl chloride, diluted to 500 mL with methylene chloride, was added dropwise over 15 minutes. The cooling bath was removed and the mixture was heated at a gentle reflux for 1.0 hour. The mixture was again cooled in an ice bath and treated with 750 mL of 3N sodium hydroxide. The separated aqueous phase was extracted with 2×250 mL=500 mL of methylene chloride. The combined organic solutions were dried over sodium sulfate to which was added 10 g of Norite A charcoal. The mixture was filtered through Celite and the solvent was stripped on a rotary evaporator at 45°. The residue was co-stripped with 100 mL of toluene to give 191.3 g (overweight) of the desired 3-(8-chlorooctyl)pyridine as a brown oil which was used without further purification.

reactant | 3-pyridineoctanol | 145.8 g | N1=CC(=CC=C1)CCCCCCCCO | C13H21NO
reactant | thionyl chloride | 72 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.0 L | C(Cl)Cl | CH2Cl2
product | 3-(8-chlorooctyl)pyridine | 191.3 g | ClCCCCCCCCC=1C=NC=CC1 | C13H20ClN
